US04761426
3.9 g sodium lysocellin @(0.006 moles) and 1.4 g zinc acetate hydrate [Zn(Ac)2.2H2O] @(.006 mole) were mixed together in 30 ml denatured ethanol (3A). The sodium lysocellin was first suspended in the ethanol and stirred, and the sodium acetate hydrate was added, and the suspension stirred at room temperature until everything was dissolved. The pH was then adjusted to a range of 2-4, with 37% HCl. Stirring was continued for 20-30 minutes until precipitation of a birefringent material started. Precipitation was continued by adding water dropwise (holding pH at 4) until about 60 ml of water was added. The resulting crystalling precipitate of the free acid of lysocellin was isolated and dried. The resulting free acid of lysocellin comprised birefringent crystals.

reactant | sodium lysocellin | 3.9 g | [Na].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O
reactant | sodium acetate hydrate | O.C(C)(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
catalyst | zinc acetate hydrate | 1.4 g | O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | ethanol | C(C)O | C2H6O
product | lysocellin | CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O | C34H60O10
